* ============================================================================
* Rail-to-rail INPUT comparator - AutoHV BiCMOS 180, 3.3 V rail
* ----------------------------------------------------------------------------
* One cell (CMP_RR) whose input common-mode range spans the FULL supply,
* rail to rail, by running an NMOS and a PMOS input pair in parallel and
* summing their transconductances through a folded-cascode stage. Near the
* bottom rail the PMOS pair carries the signal; near the top rail the NMOS
* pair does; in the middle both contribute (gm roughly doubles). The starved
* pair contributes ~zero CURRENT (not a stuck voltage), which is why the two
* pairs can share one signal path - simply OR-ing two complementary
* comparators does NOT work (the off pair's output rails and corrupts).
*
* Topology:
*   Stage 1 : complementary input pairs (Xn1/2 high-CM, Xp1/2 low-CM)
*             -> top fold current sources (Xf1/2) + PMOS cascodes (Xcp1/2)
*             -> bottom NMOS current-mirror load (Xmm1/2). Single-ended at 'b'.
*   Stage 2 : NMOS common-source gain stage (Xs2n) + PMOS current-source load.
*   Stage 3 : CMOS inverter -> rail-to-rail digital output.
* Polarity : OUT is HIGH when V(inp) > V(inn)  (non-inverting).
*
* Design knobs (per-instance params):
*   IREF - bias reference current pushed into the 'ibp_5uA' pin. Sets both pair
*          tails (~2*IREF) and the fold/mirror branch currents.
*   FIN  - MATCHING scale (default 1): multiplies the W AND L of BOTH input
*          pairs and the bottom load mirror together. Keeps W/L (hence Vov,
*          gm, the rail-to-rail hand-off points) fixed; lowers input-referred
*          offset ~1/FIN at the cost of stage-1 area ~FIN^2. This is the
*          offset<->area knob: FIN=1 = low-area "normal" (gp), FIN>1 = lower
*          offset (lo, lo2).
*
* Bias note: the PMOS cascode gate 'vcp' is generated VDD-REFERENCED (VDD - 2|Vsg|,
* two stacked PMOS diodes). This is deliberate: a ground-referenced bias pins the
* NMOS-pair drains (x,y) at a fixed level, so when VDD sags to its brown-out limit
* the top fold sources lose all their Vds and drop out of saturation. Referencing
* vcp to VDD makes x track the rail, holding the fold-source Vds (the single most
* headroom-critical spot in this cell) ~constant across the whole supply range.
*
* Saturation: every device intended to run in saturation keeps Vds/Vdsat > 1.4
* across PVT over the full rail-to-rail input CM. The input pairs and their
* tails are EXEMPT where they intentionally hand off (an off pair near a rail
* is cutoff by design, not a violation); they are checked where active. The
* output inverter (Xbp/Xbn) is a switch and is excluded.
*
* Bias: source IREF into 'ibp_5uA' (from vdd).
* Ports:  inp inn out vdd vss ibp_5uA EN
* Enable (EN): active-high. EN=1 = normal. EN=0 = disabled by BIAS SHUTDOWN -- the
*   core stays on the true rails; small switches kill the current instead. A
*   2-inverter buffer makes ENB=/EN and ENbuf=EN; a SERIES switch (Xser) feeds the
*   diode-tied mirror reference from the bias pin, and a GATE-SHORT (Xsh) ties that
*   mirror gate to its rail -> every mirror branch off -> ZERO static Iq (leakage).
*   The series switch also disconnects the bias pin, so Iq is ~0 even if the
*   external bias stays on. A clamp (Xsho2) on the stage-2 output o2 holds OUT
*   defined when disabled (CMP_NIN low; CMP_PIN/CMP_RR high). Tie EN high if unused.
* Dependency: the EN buffer instantiates the PDK async-logic INV cell, so any deck
*   using these comparators must ALSO include the cell library:
*     .include "<repo>/circuits/async_logic_design/cells.lib"
*   (left as a deck-level include so it cannot collide with a deck that already
*   includes cells.lib for its own logic.)
* Pin-name convention: the bias pin encodes the expected current + sense --
* '5uA' = nominal IREF; 'ibp' = current SOURCED into the block (diode-tied NMOS
* ref, from vdd); 'ibn' = current SUNK out of the block (diode-tied PMOS ref, to
* vss). lp/fast variants drive a different current (1u/10u) into the SAME pin.
* ============================================================================

.subckt CMP_RR inp inn out vdd vss ibp_5uA EN params: IREF=5u FIN=1
* --- bias generation ---
Xrbn  ibg_n  ibg_n  vss vss NMOS33 W=10u L=1u M=1            ; NMOS diode ref (carries IREF)
Xmir  pmd ibg_n  vss vss NMOS33 W=10u L=1u M=1            ; mirror IREF up
Xrbp  pmd pmd vdd vdd PMOS33 W=20u L=1u M=1            ; PMOS diode -> vbp = pmd
Xvc1  k   k   vdd vdd PMOS33 W=20u L=1u M=1            ; vcp = VDD - 2*|Vsg| (VDD-referenced
Xvc2  vcp vcp k   vdd PMOS33 W=20u L=1u M=1            ;   cascode bias: x tracks the rail so
Xisk  vcp ibg_n  vss vss NMOS33 W=10u L=1u M=1            ;   the fold sources keep Vds at brownout)
* --- rail-to-rail folded-cascode input stage ---
Xmtn  sn  ibg_n  vss vss NMOS33 W=20u L=1u M=1            ; NMOS pair tail (~2*IREF)
Xn1   x   inp sn  vss NMOS33 W={40u*FIN} L={1u*FIN} M=1
Xn2   y   inn sn  vss NMOS33 W={40u*FIN} L={1u*FIN} M=1
Xmtp  sp  pmd vdd vdd PMOS33 W=40u L=1u M=1            ; PMOS pair tail (~2*IREF)
Xp1   a   inp sp  vdd PMOS33 W={80u*FIN} L={1u*FIN} M=1
Xp2   b   inn sp  vdd PMOS33 W={80u*FIN} L={1u*FIN} M=1
Xf1   x   pmd vdd vdd PMOS33 W=60u L=1u M=1            ; top fold sources
Xf2   y   pmd vdd vdd PMOS33 W=60u L=1u M=1
Xcp1  a   vcp x   vdd PMOS33 W=40u L=1u M=1            ; PMOS cascodes x->a, y->b
Xcp2  b   vcp y   vdd PMOS33 W=40u L=1u M=1
Xmm1  a   a   vss vss NMOS33 W={20u*FIN} L={1u*FIN} M=1 ; bottom mirror diode (a)
Xmm2  b   a   vss vss NMOS33 W={20u*FIN} L={1u*FIN} M=1 ; mirror out -> stage-1 out = b
* --- stage 2: common-source gain + current-source load ---
Xs2n  o2  b   vss vss NMOS33 W=40u L=1u M=1
Xs2p  o2  pmd vdd vdd PMOS33 W=40u L=1u M=1
* --- stage 3: CMOS inverter (rail-to-rail digital out) ---
Xbp   out o2  vdd vdd PMOS33 W=20u L=0.5u M=1
Xbn   out o2  vss vss NMOS33 W=10u L=0.5u M=1
* --- enable / bias-shutdown disable (small switches; core on true rails) ---
Xei1  EN    ENB   vdd vss INV_3V3                          ; ENB   = /EN  (PDK cell)
Xei2  ENB   ENbuf vdd vss INV_3V3                          ; ENbuf = EN   (PDK cell)
Xser  ibp_5uA ENbuf ibg_n vss NMOS33 W=4u L=0.5u M=1        ; series: bias pin -> NMOS mirror gate
Xshn  ibg_n ENB   vss     vss NMOS33 W=4u L=0.5u M=1        ; gate-short: ibg_n -> vss (EN=0)
Xshp  pmd   ENbuf vdd     vdd PMOS33 W=4u L=0.5u M=1        ; gate-short: pmd -> vdd (PMOS side off)
Xsho2 o2    ENB   vss     vss NMOS33 W=4u L=0.5u M=1         ; clamp o2 -> vss (OUT high when EN=0)
.ends CMP_RR
